************************************************************************
* auCdl Netlist:
* 
* Library Name:  sar_adc
* Top Cell Name: output_buffers
* View Name:     schematic
* Netlisted on:  Apr 27 19:19:39 2016
************************************************************************

.INCLUDE  /projects/nanos/design_kit/TSMC90nmLPRF_616OA/Calibre/lvs/source_added
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: tsmcN90rf
* Cell Name:    inv
* View Name:    schematic
************************************************************************

.SUBCKT inv G Gb IN OUT P Pb
*.PININFO G:I Gb:I IN:I P:I Pb:I OUT:O
MNM1 OUT IN G Gb nch l=nl w=nw m=1*nf
MPM1 OUT IN P Pb pch l=pl w=pw m=1*pf
.ENDS

************************************************************************
* Library Name: sar_adc
* Cell Name:    buffer
* View Name:    schematic
************************************************************************

.SUBCKT buffer GND IN OUT VDD
*.PININFO IN:I OUT:O GND:B VDD:B
XI1 GND GND net11 OUT VDD VDD / inv pf=1 pw=200n pl=100n nf=1 nw=200n nl=100n
XI0 GND GND IN net11 VDD VDD / inv pf=1 pw=200n pl=100n nf=1 nw=200n nl=100n
.ENDS

************************************************************************
* Library Name: sar_adc
* Cell Name:    output_buffers
* View Name:    schematic
************************************************************************

.SUBCKT output_buffers BIN<7> BIN<6> BIN<5> BIN<4> BIN<3> BIN<2> BIN<1> BIN<0> 
+ BOUT<7> BOUT<6> BOUT<5> BOUT<4> BOUT<3> BOUT<2> BOUT<1> BOUT<0> GND VDD
*.PININFO BIN<7>:I BIN<6>:I BIN<5>:I BIN<4>:I BIN<3>:I BIN<2>:I BIN<1>:I 
*.PININFO BIN<0>:I BOUT<7>:O BOUT<6>:O BOUT<5>:O BOUT<4>:O BOUT<3>:O BOUT<2>:O 
*.PININFO BOUT<1>:O BOUT<0>:O GND:B VDD:B
XI7 GND BIN<0> BOUT<0> VDD / buffer
XI6 GND BIN<1> BOUT<1> VDD / buffer
XI5 GND BIN<2> BOUT<2> VDD / buffer
XI4 GND BIN<3> BOUT<3> VDD / buffer
XI3 GND BIN<4> BOUT<4> VDD / buffer
XI2 GND BIN<5> BOUT<5> VDD / buffer
XI1 GND BIN<6> BOUT<6> VDD / buffer
XI0 GND BIN<7> BOUT<7> VDD / buffer
.ENDS

